US04167570
50 ml of a 20% solution of phosgene in toluene were added dropwise over a period of 10 minutes to a mixture consisting of 10.0 gm of 6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]-benzodiazepin-5-one, 100 ml of diethyl ketone, 50 ml of toluene and 5 ml of pyridine. The resulting mixture was heated at 60° C. for 2 hours, at 80° C. for one hour and at 110° C. for one hour, while stirring. After cooling to room temperature, 100 ml of water were added. The organic phase was dried with sodium sulfate and then evaporated in vacuo. The residue was recrystallized twice from ethanol, yielding 7.3 gm of 11-chloroformyl-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one, m.p. 205°-207° C.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]-benzodiazepin-5-one | 10.0 gm | CC=1C=C(C2=C(NC3=C(N(C2=O)C)C=CC=C3)N1)C | C15H15N3O
reactant | diethyl ketone | 100 ml | C(C)C(=O)CC | C5H10O
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
product | 11-chloroformyl-6,11-dihydro-2,4,6-trimethyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 7.3 gm | ClC(=O)N1C2=C(C(N(C3=C1C=CC=C3)C)=O)C(=CC(=N2)C)C | C16H14ClN3O2
